US08030438B2
(2) Synthesis of 2-(tributylstannyl)-3-(diethoxyphosphoryl)-thiophene
In THF, 1.96 g (8.90 mmols) of 3-(diethoxyphosphoryl)thiophene was dissolved and cooled down to −78° C. Commercially available n-butyl lithium (1.59 M hexane solution, 8.90 mmols) was slowly dropped, followed by stirring for 3 hours at a standing temperature. Thereafter, 3.19 g (9.80 mmols) of commercially available tributylstannyl chloride was dropped and stirred for 1.5 hours. After completion of the reaction, a disodium hydrogen phosphate/sodium dihydrogen phosphate buffer solution, adjusted to pH=7, was added so as to complete the reaction, followed by extraction with ethyl acetate. The organic phase was washed with a saturated saline solution and dried over anhydrous sodium sulfate. The solvent was removed, and the resulting crude product was purified with a silica gel column (ethyl acetate:hexane=1:2) to obtain the specified substance in the form of a transparent oil at a yield of 4.35 g (yield: 96%). The thus obtained substance was used as it is for reaction in Example 12(3).

reactant | 3-(diethoxyphosphoryl)thiophene | 8.90 mmols, 1.96 g | C(C)OP(=O)(OCC)C1=CSC=C1 | C8H13O3PS
reactant | n-butyl lithium | 8.90 mmols, 1.59 M | C(CCC)[Li]
reactant | tributylstannyl chloride | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | disodium hydrogen phosphate sodium dihydrogen phosphate | P(=O)(O)([O-])[O-].[Na+].[Na+].P(=O)(O)(O)[O-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 2-(tributylstannyl)-3-(diethoxyphosphoryl)-thiophene | yield: 96% | C(CCC)[Sn](C=1SC=CC1P(=O)(OCC)OCC)(CCCC)CCCC | InChI=1S/C8H12O3PS.3C4H9.Sn/c1-3-10-12(9,11-4-2)8-5-6-13-7-8;3*1-3-4-2;/h5-6H,3-4H2,1-2H3;3*1,3-4H2,2H3;
